US04937388
A solution of 1,1,1,2-tetrafluoro-2-(4-ethoxyphenyl)prop-3-yl 6-phenoxy-2-pyridylmethyl sulphide (0.1 g) in dichloromethane (7 cm3) was cooled to -30° C. and meta-chloroperbenzoic acid (0.078 g) was added. The solution was allowed to warm to -20° C., and was stirred at this temperature for 30 minutes. Silical gel (3 g) was added to the reaction mixture and the solvent was then evaporated under reduced pressure. The residue was applied to a silica gel column, and eluted with diethyl ether containing 30% petroleum ether. Evaporation of the major product containing fraction gave 1,1,1,2-tetrafluoro-2-(4-ethoxyphenyl)prop-3-yl 6-phenoxy-2-pyridylmethyl sulphoxide as a colourless oil (0.095 g).

reactant | 1,1,1,2-tetrafluoro-2-(4-ethoxyphenyl)prop-3-yl 6-phenoxy-2-pyridylmethyl sulphide | 0.1 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)CSCC(C(F)(F)F)(C1=CC=C(C=C1)OCC)F | C23H21F4NO2S
reactant | meta-chloroperbenzoic acid | 0.078 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 7 cm3 | ClCCl | CH2Cl2
product | 1,1,1,2-tetrafluoro-2-(4-ethoxyphenyl)prop-3-yl 6-phenoxy-2-pyridylmethyl sulphoxide | 0.095 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)CS(=O)CC(C(F)(F)F)(C1=CC=C(C=C1)OCC)F | C23H21F4NO3S
